2106-02-24 08:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Complained of CP, EKG - At [**2106-2-23**] 07:15 PM
 unchanged from
   prior.
 MULTI LUMEN - START [**2106-2-23**] 07:57 PM
 TRANSTHORACIC ECHO - At [**2106-2-23**] 08:09 PM
   Valves normal, EF 30%, suboptimal study.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Nafcillin - [**2106-2-22**] 04:00 PM
   Vancomycin - [**2106-2-23**] 08:59 PM
   Infusions:
   Heparin Sodium - 2,200 units/hour
   Nitroglycerin - 0.65 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2106-2-23**] 09:50 PM
   Famotidine (Pepcid) - [**2106-2-23**] 10:21 PM
   Heparin Sodium - [**2106-2-24**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-2-24**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 80 (74 - 107) bpm
   BP: 151/62(84) {104/46(60) - 151/103(111)} mmHg
   RR: 23 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,111 mL
                                                                    667 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    751 mL
                                                                    427 mL
   Blood products:
   Total out:
                                                                  1,625 mL
                                                                  1,130 mL
   Urine:
                                                                  1,625 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -514 mL
                                                                   -463 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: obese
   HEENT: NC/AT/OPC/ no lad
   CVS: RRR , no M/R/G, unable to asses JVP
   RESP: limited by body habitus, CTA-B
   ab
   Labs / Radiology
   344 K/uL
   9.3 g/dL
   118 mg/dL
   1.0 mg/dL
   26 mEq/L
   3.5 mEq/L
   12 mg/dL
   102 mEq/L
   137 mEq/L
   28.3 %
   14.1 K/uL
        [image002.jpg]
                             [**2106-2-20**]  02:43 AM
                             [**2106-2-20**]  02:48 AM
                             [**2106-2-20**]  09:08 AM
                             [**2106-2-20**]  04:15 PM
                             [**2106-2-20**]  04:28 PM
                             [**2106-2-21**]  03:59 AM
                             [**2106-2-22**]  03:44 AM
                             [**2106-2-23**]  05:46 PM
                             [**2106-2-24**]  12:10 AM
                             [**2106-2-24**]  06:47 AM
   WBC
   6.8
   9.6
   9.1
   16.4
   14.1
   Hct
   26.7
   29.7
   31.0
   34.7
   28.6
   28.3
   Plt
   [**Telephone/Fax (3) 11315**]75
   344
   Cr
   1.5
   1.3
   1.3
   1.1
   1.0
   1.0
   TropT
   <0.01
   0.02
   TCO2
   33
   34
   29
   Glucose
   100
   120
   88
   127
   112
   118
   Other labs: PT / PTT / INR:14.9/30.8/1.3, CK / CKMB /
   Troponin-T:84/3/0.02, ALT / AST:53/57, Alk Phos / T Bili:225/2.6,
   Amylase / Lipase:/57, Differential-Neuts:83.2 %, Band:1.0 %, Lymph:12.4
   %, Mono:2.9 %, Eos:1.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:269 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 ACUTE CORONARY SYNDROME (ACS, UNSTABLE ANGINA, CORONARY ISCHEMIA)
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 HYPERNATREMIA (HIGH SODIUM)
 IMPAIRED SKIN INTEGRITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   59 y/o M w/ h/o CAD s/p CABG, and BMS to Left Main a/w
   bacteremia/hardware infection and now admitted to the CCU noted to be
   in flash pulmonary edema.
   # CORONARIES: initially high clinical concern for ACS given chest pain,
   ECG changes, and pulmonary edema.  PE and dissection are
   considerations, but has improved with therapy for ACS, and no specific
   findings to point towards those etiologies at this time so will hold on
   CTA for now. Also troponins have been negative.
   Treat heart failure for now, if no improvement consider cardiac cath at
   that point with ? reperfusible lesion. Resume diet.
   DC heparin/nitro drip.
   Continue ASA 325.
   Continue metoprolol 100 TID
   continue zetia.
   -f/u  lipids and hemoglobin A1c.
   -
   # PUMP:  Left heart failure.  Echo shows reduced EF from prior but with
   poor windows, and CXR shows pulmonary edema which is markedly improved
   this am.
   Repeat formal TTE.
   - beta-blockade given ACS and tachycardia
   Continue lasix boluses with 40 IV PRN, goal negative 500cc-1L
   [**Hospital1 **] lyte checks
   .
   # RHYTHM:  Sinus with frequent PVC's/trigeminy, h/o a.fib
   - monitor on tele
   - beta-blockade
   - continue digoxin
   - restart Coumadin, no heparin bridge.
   .
   # MSSA/CONS Bacteremia: ID notes pt not bacteremic currently but
   hardware should be removed.
   - Continue vancomycin for prespecified duration of 7 days after first
   negative culture ([**2-17**])
   - Change to nafcillin once vanco course completed
   - hold on rifampin/gent for now
   - ortho to address harware as outpatient
   -f/u ID recs
   - renally dose vancomycin/nafcillin
   .
   # R-Atrial Foreign Body/Fibrin Sheath:
   - abx/ no need to remove as per ID. No heparin for now.
   .
   # Hypoxemia: Likely [**1-26**] pulmonary edema.  Nothing by history to suggest
   aspiration or HCAP , ? demand from thrombus in heart
   - Lasix 40mg IV
   - home CPAP overnight
   - trend  WBC
   -serial CXR
   .
   # Delerium: Likely [**1-26**] opiates/benzos and acute illness.
   -          head CT on [**2-19**]
   -          repeat  Head CT.
   -          frequent reorientation.
   .
   # OSA: Home CPAP overnight.
   .
   # Depression: home medications.
   - Consider MRI for evaluation of hypodensity
   - neuro exam
   - heparin for A. Fib
   .
   # Gout: Allopurinol -> renally dose
   .
   FEN:
   - low sodium, heart healthy
   .
   ACCESS:
    - LIJ
    -PICC placed
   .
   PROPHYLAXIS:
   -DVT ppx with heparinSC
   -Pain management with morphine PRN
   -Bowel regimen with senna/colace
   .
   CODE: full
   .
   COMM: [**Name (NI) **] and son.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2106-2-23**] 07:57 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   Per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Likely CHF exacerbation
   will diurese
   will need to consider need for cardiac catheterization if chest pain
   develps in spite of diuresis
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**]
   on:[**2106-2-24**] 11:00 ------

2106-02-25 07:39:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2106-2-24**] 09:00 AM
 MULTI LUMEN - STOP [**2106-2-24**] 02:52 PM
   - d/c'ed heparin gtt
   - changed vancomycin to nafcillin after talking with ID
   - pulled L IJ
   - cancelled CT head, as we were not able to get a PIV through which we
   could give contrast
   - put out VERY WELL to 40 mg IV lasix
   - restarted coumadin
   - echo ef 35-45%, LV moderately dilated, inferior and inferolateral
   hypokinesis
   - sundowned a bit (avoid ativan in the future)
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle pain;
   Last dose of Antibiotics:
   Vancomycin - [**2106-2-24**] 08:43 AM
   Nafcillin - [**2106-2-25**] 03:40 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2106-2-24**] 01:50 PM
   Famotidine (Pepcid) - [**2106-2-24**] 09:18 PM
   Heparin Sodium (Prophylaxis) - [**2106-2-24**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-2-25**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**07**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 85 (80 - 105) bpm
   BP: 130/80(118) {110/57(72) - 154/89(118)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 170.3 kg (admission): 204.5 kg
   Height: 72 Inch
             Total In:
                                                                  2,548 mL
                                                                    852 mL
   PO:
                                                                    840 mL
                                                                    480 mL
   TF:
   IVF:
                                                                  1,708 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  4,735 mL
                                                                    400 mL
   Urine:
                                                                  4,735 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,187 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///25/
   Physical Examination
   General: Obese. Confused.
   HEENT: Anicteric. PERRL.
   CV: RRR , normal s1, s2. no M/R/G
   RESP: Tachypneic to 30. Decreased BS at bases
   Abd: Obese. Soft. NT/ND.
   Ext: WWP. No edema. Left knee incision C/D/I.
   Neuro: Alert, oriented only to self. CN II-XII intact. Strength 5/5
   throughout except in right wrist extension (patient describes history
   of tendon transfer).
   Labs / Radiology
   395 K/uL
   9.8 g/dL
   120 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   13 mg/dL
   104 mEq/L
   139 mEq/L
   29.5 %
   9.5 K/uL
        [image002.jpg]
                             [**2106-2-20**]  02:48 AM
                             [**2106-2-20**]  09:08 AM
                             [**2106-2-20**]  04:15 PM
                             [**2106-2-20**]  04:28 PM
                             [**2106-2-21**]  03:59 AM
                             [**2106-2-22**]  03:44 AM
                             [**2106-2-23**]  05:46 PM
                             [**2106-2-24**]  12:10 AM
                             [**2106-2-24**]  06:47 AM
                             [**2106-2-25**]  03:00 AM
   WBC
   9.6
   9.1
   16.4
   14.1
   9.5
   Hct
   29.7
   31.0
   34.7
   28.6
   28.3
   29.5
   Plt
   280
   277
   475
   344
   395
   Cr
   1.3
   1.3
   1.1
   1.0
   1.0
   1.2
   TropT
   <0.01
   0.02
   0.03
   TCO2
   33
   34
   29
   Glucose
   120
   88
   127
   112
   118
   120
   Other labs: PT / PTT / INR:15.0/28.3/1.3, CK / CKMB /
   Troponin-T:81/3/0.03, ALT / AST:53/57, Alk Phos / T Bili:225/2.6,
   Amylase / Lipase:/57, Differential-Neuts:83.2 %, Band:1.0 %, Lymph:12.4
   %, Mono:2.9 %, Eos:1.3 %, Lactic Acid:1.0 mmol/L, Albumin:2.5 g/dL,
   LDH:269 IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   59 y/o M w/ h/o CAD s/p CABG, and BMS to Left Main a/w
   bacteremia/hardware infection and now admitted to the CCU noted to be
   in flash pulmonary edema.  Currently, most active problem is altered
   mental status.
   # Altered mental status: Disorientation and reversal of sleep-wake
   cycle in a man who has recently been receiving benzodiazepines and
   other sedating meds consistent with delirium, although patient is
   relatively young (59).  Past medical records indicate a history of
   memory impairment, so it is possible patient has an underlying
   cognitive deficit that predisposes him to delirium, although this
   history is not clear.  Patient has a large volume of distribution,
   which might be associated with delayed clearance of opioids. Concern
   would be for septic emboli to the brain in the setting of recent
   intracardiac infection.
   - CT head with contrast; will need PIV for power PICC for contrast
   bolus
   - avoid anticholinergic meds, benzos, or opioids
   - neurology consult given persistently altered mental status
   # CORONARIES: Initially high clinical concern for ACS given chest pain,
   ECG changes, and pulmonary edema.  Troponins have been negative,
   although patient has decreased EF and new inferior and inferolateral
   hypokinesis. LDL 132. A1c 4.9.
   -consider cardiac cath in future; not right now
   -Continue ASA 325
   -Continue metoprolol 100 TID
   -continue Zetia
   -
   # PUMP:  Left heart failure.  Echo shows reduced EF and new focal wall
   motion abnormalities, and CXR shows pulmonary edema which is generally
   improved this am.  Diuresed very well to Lasix 40 mg IV.
   - beta-blockade given ACS and tachycardia
   - Bolus with Lasix 20 mg IV for less aggressive diuresis
   - [**Hospital1 **] lyte checks
   .
   # RHYTHM:  Sinus with frequent PVC's/trigeminy, h/o a.fib
   - monitor on tele
   - beta-blockade
   - continue digoxin
   - on Coumadin; monitor INR
   .
   # MSSA/CONS Bacteremia: ID notes pt not bacteremic currently but
   hardware should be removed. Continued vancomycin for prespecified
   duration of 7 days after first negative culture ([**2-17**]). Started
   nafcillin.
   - Continue nafcillin.
   - hold on rifampin/gent for now
   - ortho to address hardware as outpatient
   - f/u ID recs
   .
   # R-Atrial Foreign Body/Fibrin Sheath:
   - abx/ no need to remove as per ID. No heparin for now.
   .
   # OSA: Home CPAP overnight.  If patient retains O2 at night, this could
   worsen mental status.
   .
   # Depression: home medications.
   .
   # Gout: Allopurinol -> renally dose
   .
   FEN:
   - low sodium, heart healthy
   .
   ACCESS:
   -PICC
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SC
   -Pain management with tylenol
   -Bowel regimen with senna/colace
   .
   CODE: full
   .
   COMM: [**Name (NI) **] and son.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: heart healthy, low Na, diabetic diet
   Glycemic Control: Change sliding scale to mealtime dosing now that
   patient has a regular diet
   Lines:
   Multi Lumen - [**2106-2-23**] 07:57 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: heparin SC
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Per housestaff
   nothing to add
   Physical Examination
   per housestaff
   nothing to add
   Medical Decision Making
   Per housestaff
   nothing to add
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   Additional comments:
   Improved some chf standpoint
   Mental status still not back to baseline c/q delirium
   Will transfer to medicine
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 1584**],MD
   on:[**2106-2-25**] 13:28 ------